US07199119B2
6-Bis(phenylmethyl)amino-4,5-diamino-pyridine-3-carboxylic acid ethyl ester (11).
Sodium borohydride (151 mg, 4.1 mmol) was added to a solution of nickel (II) chloride hydrate (261 mg, 1.1 mmol) in MeOH (26 mL). After 30 min. at room temperature, a solution of 4-amino-6-bis(phenylmethyl)amino-5-nitro-pyridine-3-carboxylic acid ethyl ester (0.9 g, 2.2 mmol) in dichloromethane (5 mL) was added followed by the addition of sodium borohydride (353 mg). The mixture was stirred over night then filtered through a layer of silica gel. The organic was diluted with dichloromethane, washed with brine and dried over sodium sulfate. The organics were filtered, concentrated and purified by column chromatography (dichloromethane:methanol, 20:1). 11 was obtained as a white solid (200 mg). 1H NMR (400 MHz, d6-DMSO) δ: 1.26 (t, J=7.1 Hz, 3H), 4.21 (s, 4H), 4.22 (q, J=7.1 Hz, 2H), 4.52 (s, 2H), 6.73 (s, 2H), 7.14–7.31 (m, 10H), 8.01 (s, 1H). ESIMS, M/Z, 377 (M+1)+.

reactant | Sodium borohydride | 4.1 mmol, 151 mg | [BH4-].[Na+]
reactant | 4-amino-6-bis(phenylmethyl)amino-5-nitro-pyridine-3-carboxylic acid ethyl ester | 2.2 mmol, 0.9 g | C(C)OC(=O)C=1C=NC(=C(C1N)[N+](=O)[O-])N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C22H22N4O4
reactant | sodium borohydride | 353 mg | [BH4-].[Na+]
solvent | MeOH | 26 mL | CO | CH4O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | nickel (II) chloride hydrate | 1.1 mmol, 261 mg | O.[Ni](Cl)Cl
product | 6-Bis(phenylmethyl)amino-4,5-diamino-pyridine-3-carboxylic acid ethyl ester | 200 mg | C(C)OC(=O)C=1C=NC(=C(C1N)N)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C22H24N4O2
